US07741327B2
A solution of (S)-4-methyl-2-[2-oxo-4-(5,6,7,8-tetrahydro-naphthalen-1-yloxy)-2,5-dihydro-pyrrol-1-yl]-pentanoic acid [1-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl-methyl)-1H-pyrazol-3-yl]-amide (43 mg, 0.08 mmol) in methanol (1 mL) at 25° C. was treated with p-toluenesulfonic acid monohydrate (4 mg, 0.02 mmol). The reaction was stirred at 25° C. overnight. At this time, the reaction was concentrated in vacuo. The residue was diluted with dichloromethane (25 mL) and was washed with a saturated aqueous sodium bicarbonate solution (1×25 mL), water (1×25 mL) and a saturated aqueous sodium chloride solution (1×25 mL), dried over magnesium sulfate, filtered, rinsed with dichloromethane and concentrated in vacuo. Purification by Analogix flash chromatography (8 g, 1-10% methanol/dichloromethane) afforded (S)-4-methyl-2-[2-oxo-4-(5,6,7,8-tetrahydro-naphthalen-1-yloxy)-2,5-dihydro-pyrrol-1-yl]-pentanoic acid [1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-amide (28 mg, 71%) as a white solid: HR-ES-MS m/z calculated for C26H34N4O5 [M+H]+ 483.2602, observed 483.2603; 1H NMR (400 MHz, DMSO-d6) δ ppm 0.90 (d, J=6.5 Hz, 3H), 0.94 (d, J=6.5 Hz, 3H), 1.46 (br. s., 1H), 1.53-1.65 (m, 1H), 1.65-1.85 (m, 5H), 2.57 (br. s., 2H), 2.76 (br. s., 2H), 3.21-3.31 (m, 2H), 3.72-3.82 (m, 1H), 3.87 (dd, J=13.4, 7.5 Hz, 1H), 4.09 (dd, J=13.6, 4.0 Hz, 1H), 4.18 (d, J=18.3 Hz, 1H), 4.56 (d, J=18.3 Hz, 1H), 4.65 (s, 1H), 4.71 (t, J=5.4 Hz, 1H), 4.87 (dd, J=10.7, 4.9 Hz, 1H), 4.93 (d, J=5.1 Hz, 1H), 6.41 (d, J=2.1 Hz, 1H), 7.04 (d, J=7.7 Hz, 2H), 7.18 (t, J=7.7 Hz, 1H), 7.53 (d, J=2.1 Hz, 1H), 10.75 (s, 1H).

reactant | (S)-4-methyl-2-[2-oxo-4-(5,6,7,8-tetrahydro-naphthalen-1-yloxy)-2,5-dihydro-pyrrol-1-yl]-pentanoic acid [1-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl-methyl)-1H-pyrazol-3-yl]-amide | 0.08 mmol, 43 mg | CC1(OC[C@H](O1)CN1N=C(C=C1)NC([C@H](CC(C)C)N1C(C=C(C1)OC1=CC=CC=2CCCCC12)=O)=O)C | C29H38N4O5
reactant | p-toluenesulfonic acid monohydrate | 0.02 mmol, 4 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 1 mL | CO | CH4O
product | (S)-4-methyl-2-[2-oxo-4-(5,6,7,8-tetrahydro-naphthalen-1-yloxy)-2,5-dihydro-pyrrol-1-yl]-pentanoic acid [1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-amide | 28 mg, 71% | O[C@H](CN1N=C(C=C1)NC([C@H](CC(C)C)N1C(C=C(C1)OC1=CC=CC=2CCCCC12)=O)=O)CO | C26H34N4O5
